US04568680
2-(2-Propoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-c]pyridin-4-one hydrochloride
This compound was prepared analogous to Example 2 from 2-propoxy-4-methylmercapto-benzoyl chloride and 2-methoxy-3,4-diamino-pyridine hydrochloride. Melting point: above 260° C.

reactant | 2-propoxy-4-methylmercapto-benzoyl chloride | C(CC)OC1=C(C(=O)Cl)C=CC(=C1)SC | C11H13ClO2S
reactant | 2-methoxy-3,4-diamino-pyridine hydrochloride | Cl.COC1=NC=CC(=C1N)N
product | 2-(2-Propoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-c]pyridin-4-one hydrochloride | Cl.C(CC)OC1=C(C=CC(=C1)SC)C1=NC=2C(C(NCC2)=O)=N1 | InChI=1S/C16H17N3O2S.ClH/c1-3-8-21-13-9-10(22-2)4-5-11(13)15-18-12-6-7-17-16(20)14(12)19-15;/h4-6,9H,3,7-8H2,1-2H3,(H,17,20);1H
